US06586447B1
3B. 4-(1-Adamantan-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile
1-Adamantan-1-ylmethyl-6-bromo-1,3-dihydro-indol-2-one (1.06 g, 2.9 mmol) was dissolved in a previously degassed solution of 18 ml of toluene and 3 ml of EtOH under an atmosphere of dry N2. To this solution was added tetrakis(triphenylphosphine)palladium (0) (133 mg, 0.12 mmol) followed by a solution of Na2CO3 (707 mg, 6.67 mmol) dissolved in 5 ml of water. To this solution was added 4-cyanobenzene boronic acid (640 mg, 4.35 mmol) and the reaction mixture was then heated to 100° C. and reacted at this temperature for 4 hours. The reaction mixture was then cooled to ambient temperature and partitioned between DCM and saturated aqueous NaHCO3. The aqueous layer was extracted two more times with DCM and the DCM extracts were then combined and washed with brine. The organic layer was then dried over Na2SO4, filtered and concentrated under vacuum to give a brown oil which was then triturated with Et2O to give 400 mg of the titled compound as a tan oil.

reactant | 1-Adamantan-1-ylmethyl-6-bromo-1,3-dihydro-indol-2-one | 2.9 mmol, 1.06 g | C12(CC3CC(CC(C1)C3)C2)CN2C(CC3=CC=C(C=C23)Br)=O | C19H22BrNO
reactant | Na2CO3 | 6.67 mmol, 707 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-cyanobenzene boronic acid | 4.35 mmol, 640 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 133 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Adamantan-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile | 400 mg | C12(CC3CC(CC(C1)C3)C2)CN2C(CC3=CC=C(C=C23)C2=CC=C(C#N)C=C2)=O | C26H26N2O
